### PR TITLE
[Merged by Bors] - refactor: typeclasses for measures on quotient spaces and groups

### PR DESCRIPTION
**Pull request by AlexKontorovich**
We introduce a new typeclass `QuotientMeasureEqMeasurePreimage` which expresses a relationship between a measure on a space and a measure on its quotient under a discrete group action. Namely, the volume of a measurable set in the quotient is equal to the volume of its preimage, intersected with any fundamental domain. 

Our main application is in the context of a discrete normal subgroup of a topological group acting on the group itself, so as to compare Haar measures on a group and its quotient. Before this typeclass, you could have Haar measure upstairs and downstairs and you would have ugly scaling factors if you wanted to compare the two. This typeclass more accurately reflects what is needed in order to have a clear relationship between the upstairs and downstairs measures.

Two big theorems (proved under various technical assumptions, like finiteness of the volume - which shouldn't be necessary):

(1) if you're Haar upstairs and satisfy `QuotientMeasureEqMeasurePreimage`, then you're Haar downstairs.

And conversely (2): if you're Haar upstairs and downstairs, and scale correctly on a single measurable set, then you satisfy `QuotientMeasureEqMeasurePreimage`.

Contains the forward-port of https://github.com/leanprover-community/mathlib/pull/18863

Co-authored-by: Heather Macbeth <25316162+hrmacbeth@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Order/Disjoint.lean [hunk 1]
```diff
@@ -38,6 +38,7 @@ variable [PartialOrder α] [OrderBot α] {a b c d : α}
 Note that we define this without reference to `⊓`, as this allows us to talk about orders where
 the infimum is not unique, or where implementing `Inf` would require additional `Decidable`
 arguments. -/
+@[aesop norm unfold]
```
Comment (AlexKontorovich) [inline Mathlib/Order/Disjoint.lean:41]:
```suggestion
```

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean [hunk 2]
```diff
@@ -6,307 +6,370 @@ Authors: Alex Kontorovich, Heather Macbeth
...
+  obtain ⟨s, fund_dom_s⟩ := i
+  rw [fund_dom_s.covolume_eq_volume] at finiteCovol
+  rw [projection_respects_measure fund_dom_s K'.isCompact.measurableSet]
+  apply IsHaarMeasure.smul
+  · intro h
+    haveI i' : IsOpenPosMeasure (volume : Measure G) := inferInstance
+    apply IsOpenPosMeasure.open_pos (interior K) (μ := volume) (self := i')
+    · exact isOpen_interior
+    · exact K.interior_nonempty
+    rw [← le_zero_iff, ← fund_dom_s.measure_zero_of_invariant _ (fun g ↦ QuotientGroup.sound _ _ g) h]
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Measure/Haar/Quotient.lean:303]:
```suggestion
    rw [← le_zero_iff, 
      ← fund_dom_s.measure_zero_of_invariant _ (fun g ↦ QuotientGroup.sound _ _ g) h]
```

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean [hunk 3]
```diff
@@ -6,307 +6,371 @@ Authors: Alex Kontorovich, Heather Macbeth
...
+@[to_additive]
+instance MeasureTheory.QuotientVolumeEqVolumePreimage.smulInvariantMeasure_quotient
+    [IsMulLeftInvariant (volume : Measure G)] [IsMulRightInvariant (volume : Measure G)]
+    [hasFun : HasFundamentalDomain Γ.op G] :
+    SMulInvariantMeasure G (G ⧸ Γ) μ where
   measure_preimage_smul g A hA := by
-    let π : G → G ⧸ Γ := QuotientGroup.mk
     have meas_π : Measurable π := continuous_quotient_mk'.measurable
-    have 𝓕meas : NullMeasurableSet 𝓕 μ := h𝓕.nullMeasurableSet
     have meas_πA : MeasurableSet (π ⁻¹' A) := measurableSet_preimage meas_π hA
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Measure/Haar/Quotient.lean:85]:
```suggestion
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 4]
```diff
@@ -719,4 +727,316 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+  · rw [← image_iUnion,  hA']
+    refine image_univ_of_surjective (by convert surjective_quotient_mk' α)
+
+/-- A measure `μ` on `α ⧸ G` satisfying `QuotientVolumeEqVolumePreimage` and having finite covolume
+is a finite measure. -/
+@[to_additive]
+theorem QuotientVolumeEqVolumePreimage.isFiniteMeasure_quotient
+    (μ : Measure (Quotient α_mod_G)) [QuotientVolumeEqVolumePreimage μ]
+    [hasFun : HasFundamentalDomain G α]
+    (h : covolume G α ≠ ⊤) :
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:1017]:
```suggestion
    [hasFun : HasFundamentalDomain G α] (h : covolume G α ≠ ⊤) :
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 5]
```diff
@@ -719,4 +727,315 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+  have meas_ff : ∀ n, NullMeasurableSet (ff n) μ :=
+    fun n => (measurableSet_quotient.mp (meas_f n)).nullMeasurableSet.inter hs
+  have disjoint_ff : Pairwise (AEDisjoint μ on fun (n : ℕ) => ff n)
+  · intro x y x_ne_y
+    have := (Disjoint.preimage π (disjoint_f x_ne_y))
+    rw [Function.onFun_apply]
+    have : Disjoint (ff x) (ff y) := by dsimp [Disjoint]; aesop
+    exact this.aedisjoint
+  convert measure_iUnion₀ disjoint_ff meas_ff using 1
+  simp [iUnion_inter]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:758]: Is this the same as `(μ.map π).restrict s`?

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 6]
```diff
@@ -719,4 +727,315 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+-/
+
+section HasFundamentalDomain
+
+/-- "We say a quotient of `α` by `G` `HasFundamentalDomain` if there is a measurable set
+  `s` for which `IsFundamentalDomain G s` holds." -/
+class HasAddFundamentalDomain (G : Type*) (α : Type*) [Zero G] [VAdd G α] [MeasureSpace α] :
+    Prop :=
+  (has_add_fundamental_domain_characterization : ∃ (s : Set α), IsAddFundamentalDomain G s)
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:821]: A style cleanup:
```suggestion
class HasAddFundamentalDomain (G α : Type*) [Zero G] [VAdd G α] [MeasureSpace α] : Prop where
  has_add_fundamental_domain_characterization : ∃ s : Set α, IsAddFundamentalDomain G s
```
assuming that fits within 100 chars. Same below

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 7]
```diff
@@ -719,4 +727,315 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+/-- A measure `μ` on the `AddQuotient` of `α` mod `G` satisfies `AddQuotientVolumeEqVolumePreimage`
+if: for any fundamental domain `t`, and any measurable subset `U` of the quotient,
+`μ U = volume ((π ⁻¹' U) ∩ t)`. -/
+class AddQuotientVolumeEqVolumePreimage (μ : Measure (Quotient α_mod_G)) : Prop where
+add_projection_respects_measure' : ∀ (t : Set α) (_ : IsAddFundamentalDomain G t)
+  (U : Set (Quotient α_mod_G)) (_ : MeasurableSet U),
+  μ U = volume (π ⁻¹' U ∩ t)
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:886]: Is it better to write `μ = (volume.map π).restrict t`?

File: Mathlib/Topology/Instances/AddCircle.lean [hunk 8]
```diff
@@ -125,6 +125,24 @@ abbrev AddCircle [LinearOrderedAddCommGroup 𝕜] [TopologicalSpace 𝕜] [Order
...
+-- instance : TopologicalSpace (AddCircle p) :=
+--   inferInstanceAs (TopologicalSpace (𝕜 ⧸ zmultiples p))
+-- instance : TopologicalAddGroup (AddCircle p) :=
+--   inferInstanceAs (TopologicalAddGroup (𝕜 ⧸ zmultiples p))
+-- instance : Inhabited (AddCircle p) :=
+--   inferInstanceAs (Inhabited (𝕜 ⧸ zmultiples p))
+
+instance : Coe 𝕜 (AddCircle p) := ⟨QuotientAddGroup.mk⟩
+
+end instances
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/AddCircle.lean:144]: Are these deliberately commented out? I think this might be the result of a bad merge, and the entire section can be deleted.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 5 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:758]: Good point, we'll update the file accordingly.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 7 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:886]: Actually, the goal of this typeclass is to allow to work with sets upstairs; working with measures downstairs is more cumbersome than using a variety of corresponding sets upstairs. So we'd like to keep this as is.

File: Mathlib/Topology/Instances/AddCircle.lean (hunk 8 above)
Comment (AlexKontorovich) [reply Mathlib/Topology/Instances/AddCircle.lean:144]: Sorry, those should have been deleted.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 5 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean]: Ok, file is updated. How does it look to you?

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 6 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean]: Done, thanks!

File: Mathlib/MeasureTheory/Constructions/Polish.lean [hunk 9]
```diff
@@ -634,6 +634,11 @@ instance Quotient.borelSpace {X : Type*} [TopologicalSpace X] [PolishSpace X] [M
   ⟨continuous_quotient_mk'.map_eq_borel (surjective_quotient_mk' _)⟩
 #align quotient.borel_space Quotient.borelSpace
 
+@[to_additive AddCosetSpace.borelSpace]
+instance CosetSpace.borelSpace {G : Type*} [TopologicalSpace G] [PolishSpace G] [Group G]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Constructions/Polish.lean:638]: Can you add a comment explaining how this differs from `QuotientGroup.borelSpace` immediately below? Is one a special case of the other?

Also, I'm not sure if there is any precedent for `CosetSpace` as a name.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:848]: Am I right in saying that my spelling is equivalent? If so, could you add a lemma assuming `AddQuotientVolumeEqVolumePreimage` with my conclusion?

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean [hunk 10]
```diff
@@ -6,159 +6,385 @@ Authors: Alex Kontorovich, Heather Macbeth
...
+variable (K : PositiveCompacts (G ⧸ Γ))
+
+/- Given a normal subgroup `Γ` of a topological group `G` with Haar measure `μ`, which is also
+  right-invariant, and a finite volume fundamental domain `𝓕`, the quotient map to `G ⧸ Γ`,
+  properly normalized, satisfies `QuotientVolumeEqVolumePreimage`. -/
+@[to_additive IsAddFundamentalDomain.AddQuotientVolumeEqVolumePreimage_bubHaarMeasure "Given a
+normal subgroup `Γ` of an additive topological group `G` with Haar measure `μ`, which is also
+right-invariant, and a finite volume fundamental domain `𝓕`, the quotient map to `G ⧸ Γ`,
+properly normalized, satisfies `AddQuotientVolumeEqVolumePreimage`."]
+theorem IsFundamentalDomain.QuotientVolumeEqVolumePreimage_bubHaarMeasure {𝓕 : Set G}
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/Quotient.lean:352]: I don't think `bub` should appear in lemma names; presumably you mean `smul`?

**Review by eric-wieser — COMMENTED** [review]
A few more small comments; you'll want to find a more qualified reviewer to actually get this merged!

File: Mathlib/MeasureTheory/Constructions/Polish.lean (hunk 9 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Constructions/Polish.lean:638]: It turns out that a number of long-standing names, e.g., [QuotientGroup.continuous_smul₁](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Basic.html#QuotientGroup.continuous_smul%E2%82%81), don't assume that `Γ` is normal, and so `QuotientGroup` is a misnomer (`CosetSpace` would be more accurate). But we can go for consistency over accuracy if you prefer?...

Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Constructions/Polish.lean:638]: Moreover, if we erase this `CosetSpace.borelSpace` instance, then typeclass inference seems to fail, and, e.g., `MeasurableSMul G (G ⧸ Γ)` fails to synthesize. By definition, `G ⧸ Γ` is the quotient of `G` by the action of `Γ`, but it seems unable to pick up the `BorelSpace` instance quotient unless we restate it.

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean (hunk 10 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Measure/Haar/Quotient.lean:352]: Done, thanks!

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 7 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:848]: Done, added `quotient_measure_eq_map_restrict`. Thanks!

Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:848]: Whoops, it was already there! `IsFundamentalDomain.eq_quotientMeasure`

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 11]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+delicate question which was recently addressed by Misha Kapovich: https://arxiv.org/abs/2301.05325
+
+TODO: Formalize the existence of a Dirichlet domain as in Kapovich's paper.
+
+-/
+
+section HasFundamentalDomain
+
+/-- "We say a quotient of `α` by `G` `HasFundamentalDomain` if there is a measurable set
+  `s` for which `IsFundamentalDomain G s` holds." -/
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:781]:
```suggestion
/-- We say a quotient of `α` by `G` `HasFundamentalDomain` if there is a measurable set
  `s` for which `IsAddFundamentalDomain G s` holds. -/
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 12]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+domain. Even though any "sensible" action should have a fundamental domain, this is a rather
+delicate question which was recently addressed by Misha Kapovich: https://arxiv.org/abs/2301.05325
+
+TODO: Formalize the existence of a Dirichlet domain as in Kapovich's paper.
+
+-/
+
+section HasFundamentalDomain
+
+/-- We say a quotient of `α` by `G` `HasFundamentalDomain` if there is a measurable set
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:780]:
```suggestion
/-- We say a quotient of `α` by `G` `HasAddFundamentalDomain` if there is a measurable set
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 13]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    Measure.restrict_apply (t := (Quotient.mk α_mod_G ⁻¹' U)) (measurableSet_quotient.mp meas_U)]
+
+@[to_additive IsAddFundamentalDomain.addQuotientMeasure_invariant]
+lemma IsFundamentalDomain.quotientMeasure_invariant [Countable G] [MeasurableSpace G] {s t : Set α}
+    [SMulInvariantMeasure G α μ] [MeasurableSMul G α] (fund_dom_s : IsFundamentalDomain G s μ)
+    (fund_dom_t : IsFundamentalDomain G t μ) :
+    (μ.restrict s).map π = (μ.restrict t).map π := by
+  ext U meas_U
+  rw [quotientMeasure_apply μ s meas_U]
+  rw [quotientMeasure_apply μ t meas_U]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:755]:
```suggestion
  rw [quotientMeasure_apply μ s meas_U, quotientMeasure_apply μ t meas_U]
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 14]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+  (μ : Measure α)
+
+local notation "α_mod_G" => MulAction.orbitRel G α
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+variable {G}
+
+@[to_additive addQuotientMeasure_apply]
+lemma quotientMeasure_apply (s : Set α)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:742]: It would help if you explained somewhere (in the docstring for the lemma and/or the file-level docstring) what you mean by a quotient measure (i.e., restricting to a set and then pushing foward), because the lemma name is impossible to guess without this piece of information.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 15]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+/-- We say a quotient of `α` by `G` `HasAddFundamentalDomain` if there is a measurable set
+  `s` for which `IsAddFundamentalDomain G s` holds. -/
+class HasAddFundamentalDomain (G α : Type*) [Zero G] [VAdd G α] [MeasureSpace α] : Prop where
+  has_add_fundamental_domain_characterization : ∃ s : Set α, IsAddFundamentalDomain G s
+
+/-- We say a quotient of `α` by `G` `HasFundamentalDomain` if there is a measurable set `s` for
+  which `IsFundamentalDomain G s` holds. -/
+class HasFundamentalDomain (G : Type*) (α : Type*) [One G] [SMul G α] [MeasureSpace α] : Prop where
+has_fundamental_domain_characterization : ∃ (s : Set α), IsFundamentalDomain G s
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:788]:
```suggestion
  has_fundamental_domain_characterization : ∃ (s : Set α), IsFundamentalDomain G s
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 16]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+/-- A measure `μ` on the `AddQuotient` of `α` mod `G` satisfies `AddQuotientVolumeEqVolumePreimage`
+if: for any fundamental domain `t`, and any measurable subset `U` of the quotient,
+`μ U = volume ((π ⁻¹' U) ∩ t)`. -/
+class AddQuotientVolumeEqVolumePreimage (μ : Measure (Quotient α_mod_G)) : Prop where
+add_projection_respects_measure' : ∀ (t : Set α) (_ : IsAddFundamentalDomain G t)
+  (U : Set (Quotient α_mod_G)) (_ : MeasurableSet U),
+  μ U = volume (π ⁻¹' U ∩ t)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:848]:
```suggestion
  add_projection_respects_measure' : ∀ (t : Set α) (_ : IsAddFundamentalDomain G t)
    (U : Set (Quotient α_mod_G)) (_ : MeasurableSet U),
    μ U = volume (π ⁻¹' U ∩ t)
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 17]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+/-- A measure `μ` on the `Quotient` of `α` mod `G` satisfies `QuotientVolumeEqVolumePreimage` if:
+for any fundamental domain `t`, and any measurable subset `U` of the quotient,
+`μ U = volume ((π ⁻¹' U) ∩ t)`. -/
+class QuotientVolumeEqVolumePreimage (μ : Measure (Quotient α_mod_G)) : Prop where
+projection_respects_measure' : ∀ (t : Set α) (_ : IsFundamentalDomain G t)
+  (U : Set (Quotient α_mod_G)) (_ : MeasurableSet U),
+  μ U = volume (π ⁻¹' U ∩ t)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:864]:
```suggestion
  projection_respects_measure' : ∀ (t : Set α) (_ : IsFundamentalDomain G t)
    (U : Set (Quotient α_mod_G)) (_ : MeasurableSet U),
    μ U = volume (π ⁻¹' U ∩ t)
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 18]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+end additive
+
+variable [Group G] [MulAction G α] [MeasureSpace α]
+
+local notation "α_mod_G" => MulAction.orbitRel G α
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+/-- A measure `μ` on the `Quotient` of `α` mod `G` satisfies `QuotientVolumeEqVolumePreimage` if:
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:858]: There is a strange asymmetry in this definition: you are requiring to have a MeasureSpace instance on the space alpha (so, with a canonical measure that you call volume), but on the other hand the measure on the quotient is an explicit measure. It would be more symmetric to require only a MeasurableSpace instance upstairs, and to let your class involve two measures, upstairs and downstairs. For this, you would need the class HasAddFundamentalDomain to also take an explicit measure, but you can let this measure be volume by default using a default argument as you are doing elsewhere.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 19]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    rw [h𝓕.covolume_eq_volume]
+  exact inferInstance
+
+/-- A finite measure `μ` on `α ⧸ G` satisfying `QuotientVolumeEqVolumePreimage` has finite covolume.
+-/
+@[to_additive]
+theorem QuotientVolumeEqVolumePreimage.covolume_ne_top
+    (μ : Measure (Quotient α_mod_G)) [QuotientVolumeEqVolumePreimage μ] [IsFiniteMeasure μ]
+    [hasFun : HasFundamentalDomain G α] :
+    covolume G α ≠ ⊤ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:998]:
```suggestion
    covolume G α < ∞ := by
```
Please use `∞` instead of `⊤` when dealing with ENNReal.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 20]
```diff
@@ -719,4 +727,281 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+TODO: Formalize the existence of a Dirichlet domain as in Kapovich's paper.
+
+-/
+
+section HasFundamentalDomain
+
+/-- We say a quotient of `α` by `G` `HasAddFundamentalDomain` if there is a measurable set
+  `s` for which `IsAddFundamentalDomain G s` holds. -/
+class HasAddFundamentalDomain (G α : Type*) [Zero G] [VAdd G α] [MeasureSpace α] : Prop where
+  has_add_fundamental_domain_characterization : ∃ s : Set α, IsAddFundamentalDomain G s
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:783]: the name sounds much more Lean 3 than Lean 4. `ExistsIsAddFundamentalDomain` would be better.

**Review by sgouezel — COMMENTED** [review]
I'd advocate for avoiding `MeasureSpace` and using instead `MeasurableSpace` and default arguments, as this gives more flexibility in general at a very minor cost.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 20 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:782]: will do, thanks

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 14 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean]: Yes, we don't need this lemma after all. Removing it.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 18 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean]: We've changed `[MeasureSpace alpha]` to `[MeasurableSpace]` and added a measure nu on alpha. This means that a few instances can no longer be obtained just from typeclass inference, so we had to make them lemmas.

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean [hunk 21]
```diff
@@ -6,159 +6,380 @@ Authors: Alex Kontorovich, Heather Macbeth
...
+    {𝓕 : Set G} (h𝓕 : IsFundamentalDomain Γ.op 𝓕 ν) (μ : Measure (G ⧸ Γ))
+    [QuotientMeasureEqMeasurePreimage ν μ] :
+    MeasurePreserving (@QuotientGroup.mk G _ Γ) (ν.restrict 𝓕) μ :=
+  h𝓕.measurePreserving_quotient_mk ν μ
+
+end smulInvariantMeasure
+
+section normal
+
+section additive
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Quotient.lean:116]: I am confused by the need to have a section on additive group. Can't everything be proved on multiplicative groups, and then transferred by `to_additive`? I checked and indeed a proof below breaks, but you can replace the line `convert one_smul ENNReal μ` with `suffices (μ' V / ν (QuotientGroup.mk ⁻¹' V ∩ s)) = 1 by rw [this, one_smul]` to make `to_additive` happy. (`to_additive` is often confused by `convert` and `congr`).

**Review by sgouezel — COMMENTED** [review]
Sorry for the delay with the review. I have a bunch of comments, but this looks very good. Once you have taken care of the comments, can you merge master? (I expect some things will need fixing).

File: Mathlib/MeasureTheory/Constructions/Polish.lean (hunk 9 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Constructions/Polish.lean:638]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 22]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+variable {G}
+
+@[to_additive addQuotientMeasure_apply]
+lemma measureRestrictMap_apply (s : Set α) {U : Set (Quotient α_mod_G)} (meas_U : MeasurableSet U) :
+    (μ.restrict s).map π U = μ ((π ⁻¹' U) ∩ s) := by
+  rw [map_apply (f := π) (fun V hV ↦ measurableSet_quotient.mp hV) meas_U,
+    Measure.restrict_apply (t := (Quotient.mk α_mod_G ⁻¹' U)) (measurableSet_quotient.mp meas_U)]
+
+@[to_additive IsAddFundamentalDomain.addQuotientMeasure_invariant]
+lemma IsFundamentalDomain.quotientMeasure_invariant [Countable G] [MeasurableSpace G] {s t : Set α}
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:748]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 23]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+  ExistsIsFundamentalDomain : ∃ (s : Set α), IsFundamentalDomain G s ν
+
+attribute [to_additive existing MeasureTheory.HasAddFundamentalDomain]
+  MeasureTheory.HasFundamentalDomain
+
+/-- The `covolume` of an action of `G` on `α` which has a fundamental domain is the volume of some
+fundamental domain. -/
+@[to_additive addCovolume "The `addCovolume` of an action of `G` on `α` which has a fundamental
+domain is the volume of some fundamental domain."]
+def covolume (G α : Type*) [One G] [SMul G α] [MeasurableSpace α] (ν : Measure α := by volume_tac)
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:799]: Argh. I've been trying to figure out why the following isn't working, and can't seem to make progress.

I've changed `covolume` to:
```
noncomputable def covolume (G α : Type*) [One G] [SMul G α] [MeasurableSpace α]
    (ν : Measure α := by volume_tac) : ℝ≥0∞ := by
  by_cases funDom : HasFundamentalDomain G α ν
  · exact ν funDom.ExistsIsFundamentalDomain.choose
  · exact 0
```
but then just below in:
```
lemma IsFundamentalDomain.covolume_eq_volume (ν : Measure α) [Countable G]
    [MeasurableSMul G α] [SMulInvariantMeasure G α ν] {s : Set α}
    (fund_dom_s : IsFundamentalDomain G s ν) :
    covolume (ν := ν) = ν s := by
```
I get the error under `covolume` that it failed to synthesize instance `One G` (even though `[Group G]` was added on the `variable` line below... Any suggestions?

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 24]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+local notation "α_mod_G" => AddAction.orbitRel G α
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+/-- A measure `μ` on the `AddQuotient` of `α` mod `G` satisfies
+  `AddQuotientMeasureEqMeasurePreimage` if: for any fundamental domain `t`, and any measurable
+  subset `U` of the quotient, `μ U = volume ((π ⁻¹' U) ∩ t)`. -/
+class AddQuotientMeasureEqMeasurePreimage (ν : Measure α := by volume_tac)
+    (μ : Measure (Quotient α_mod_G)) : Prop where
+  add_projection_respects_measure' : ∀ (t : Set α) (_ : IsAddFundamentalDomain G t ν),
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:851]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 25]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+-- NOTE : Should ν here be implicit???
+variable (ν : Measure α) [Countable G] [MeasurableSpace G]
+  [SMulInvariantMeasure G α ν] [MeasurableSMul G α]
+
+/-- Given a measure upstairs (i.e., on `α`), and a choice `s` of fundamental domain, there's always
+an artificial way to generate a measure downstairs such that the pair satisfies the
+`QuotientMeasureEqMeasurePreimage` typeclass. -/
+@[to_additive IsAddFundamentalDomain.addQuotientMeasureEqMeasurePreimage_addQuotientMeasure]
+lemma IsFundamentalDomain.QuotientMeasureEqMeasurePreimage_quotientMeasure
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:894]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 26]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    {s : Set α} (fund_dom_s : IsFundamentalDomain G s ν) :
+    @QuotientMeasureEqMeasurePreimage G α _ _ _ ν ((ν.restrict s).map π):=
+  { projection_respects_measure' := by
+      intro t fund_dom_t
+      rw [fund_dom_s.quotientMeasure_invariant _ fund_dom_t] }
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:899]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 27]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+lemma IsFundamentalDomain.quotientMeasureEqMeasurePreimage {μ : Measure (Quotient α_mod_G)}
+    {s : Set α} (fund_dom_s : IsFundamentalDomain G s ν) (h : μ = (ν.restrict s).map π) :
+    QuotientMeasureEqMeasurePreimage ν μ := by
+  simpa [h] using fund_dom_s.QuotientMeasureEqMeasurePreimage_quotientMeasure ν
+
+/-- Any two measures satisfying `QuotientMeasureEqMeasurePreimage` are equal. -/
+@[to_additive]
+lemma QuotientMeasureEqMeasurePreimage.unique
+    [hasFun : HasFundamentalDomain G α ν] (μ μ' : Measure (Quotient α_mod_G))
+    [i : QuotientMeasureEqMeasurePreimage ν μ] [i' : QuotientMeasureEqMeasurePreimage ν μ'] :
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:913]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 28]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    exact measure_iUnion_le _
+  · rw [← image_iUnion, hA']
+    refine image_univ_of_surjective (by convert surjective_quotient_mk' α)
+
+/-- A measure `μ` on `α ⧸ G` satisfying `QuotientMeasureEqMeasurePreimage` and having finite
+covolume is a finite measure. -/
+@[to_additive]
+theorem QuotientMeasureEqMeasurePreimage.isFiniteMeasure_quotient
+    (μ : Measure (Quotient α_mod_G)) [QuotientMeasureEqMeasurePreimage ν μ]
+    [hasFun : HasFundamentalDomain G α ν] (h : covolume G α ν ≠ ⊤) :
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:972]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 29]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    IsFiniteMeasure μ := by
+  obtain ⟨𝓕, h𝓕⟩ := hasFun.ExistsIsFundamentalDomain
+  rw [h𝓕.projection_respects_measure (μ := μ)]
+  have : Fact (ν 𝓕 < ⊤) := by
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:976]: done

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 30]
```diff
@@ -718,4 +727,287 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    apply Fact.mk
+    convert Ne.lt_top h
+    exact (h𝓕.covolume_eq_volume ν).symm
+  exact inferInstance
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:980]: done

File: Mathlib/MeasureTheory/Integral/Periodic.lean [hunk 31]
```diff
@@ -79,20 +79,30 @@ instance isFiniteMeasure : IsFiniteMeasure (volume : Measure (AddCircle T)) wher
   measure_univ_lt_top := by simp
 #align add_circle.is_finite_measure AddCircle.isFiniteMeasure
 
+instance hasFunDom : HasAddFundamentalDomain (AddSubgroup.op <| .zmultiples T) ℝ where
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Integral/Periodic.lean:82]: done

File: Mathlib/MeasureTheory/Integral/Periodic.lean [hunk 32]
```diff
@@ -79,20 +79,30 @@ instance isFiniteMeasure : IsFiniteMeasure (volume : Measure (AddCircle T)) wher
...
+  ExistsIsAddFundamentalDomain :=
+  ⟨Ioc 0 (0 + T), isAddFundamentalDomain_Ioc' Fact.out 0⟩
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Integral/Periodic.lean:84]: done

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean [hunk 33]
```diff
@@ -6,159 +6,380 @@ Authors: Alex Kontorovich, Heather Macbeth
...
+/-- Measurability of the action of the topological group `G` on the left-coset space `G / Γ`. -/
 @[to_additive "Measurability of the action of the additive topological group `G` on the left-coset
-  space `G/Γ`."]
-instance QuotientGroup.measurableSMul [MeasurableSpace (G ⧸ Γ)] [BorelSpace (G ⧸ Γ)] :
+  space `G / Γ`."]
+instance QuotientGroup.measurableSMul {G : Type*} [Group G] {Γ : Subgroup G} [MeasurableSpace G]
+    [TopologicalSpace G] [TopologicalGroup G] [BorelSpace G] [BorelSpace (G ⧸ Γ)] :
     MeasurableSMul G (G ⧸ Γ) where
-  measurable_const_smul g := (continuous_const_smul g).measurable
+  measurable_const_smul g := Continuous.measurable (continuous_const_smul g)
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Measure/Haar/Quotient.lean:61]: reverted

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 23 above)
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean]: Nevermind, got it cleared up.

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean (hunk 21 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Measure/Haar/Quotient.lean]: Great, thanks!

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 34]
```diff
@@ -718,4 +727,291 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    convert Ne.lt_top h
+    exact (h𝓕.covolume_eq_volume ν).symm
+  infer_instance
+
+/-- A finite measure `μ` on `α ⧸ G` satisfying `QuotientMeasureEqMeasurePreimage` has finite
+covolume. -/
+@[to_additive]
+theorem QuotientMeasureEqMeasurePreimage.covolume_ne_top
+    (μ : Measure (Quotient α_mod_G)) [QuotientMeasureEqMeasurePreimage ν μ] [IsFiniteMeasure μ]
+    [hasFun : HasFundamentalDomain G α ν] :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:989]: You shouldn't need this assumption: if there is no fundamental domain, then the covolume is zero...

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 35]
```diff
@@ -718,4 +727,291 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+none exists. -/
+@[to_additive addCovolume "The `addCovolume` of an action of `G` on `α` is the volume of some
+fundamental domain, or `0` if none exists."]
+noncomputable def covolume (G α : Type*) [One G] [SMul G α] [MeasurableSpace α]
+    (ν : Measure α := by volume_tac) : ℝ≥0∞ := by
+  by_cases funDom : HasFundamentalDomain G α ν
+  · exact ν funDom.ExistsIsFundamentalDomain.choose
+  · exact 0
+-- Note: The below fails, because it requires `[Decidable (HasFundamentalDomain G α ν)]`
+-- if funDom : HasFundamentalDomain G α ν then ν funDom.ExistsIsFundamentalDomain.choose else 0
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean:803]: Ah! That's how to do it, thanks!

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 36]
```diff
@@ -718,4 +727,289 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+variable (G) [Group G] [MulAction G α] [MeasurableSpace α]
+  (μ : Measure α)
+
+local notation "α_mod_G" => MulAction.orbitRel G α
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+variable {G}
+
+@[to_additive addQuotientMeasure_apply]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:741]: The to_additive name does not really correspond to the original one.

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 37]
```diff
@@ -718,4 +727,289 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+lemma measureRestrictMap_apply (s : Set α) {U : Set (Quotient α_mod_G)} (meas_U : MeasurableSet U) :
+    (μ.restrict s).map π U = μ ((π ⁻¹' U) ∩ s) := by
+  rw [map_apply (f := π) (fun V hV ↦ measurableSet_quotient.mp hV) meas_U,
+    Measure.restrict_apply (t := (Quotient.mk α_mod_G ⁻¹' U)) (measurableSet_quotient.mp meas_U)]
+
+@[to_additive IsAddFundamentalDomain.addQuotientMeasure_eq]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:747]: You shouldn't need to provide the additive names by yourself: in the file `Mathlib.Tactic.ToAdditive`, you can register the fact that `IsFundamentalDomain` should be additivized to `IsAddFundamentalDomain`, once and for all, as well as all the other terms you use.

File: Mathlib/Tactic/ToAdditive.lean [hunk 38]
```diff
@@ -1004,6 +1004,12 @@ def fixAbbreviation : List String → List String
   | "Is" :: "Left" :: "Regular" :: s  => "IsAddLeftRegular" :: fixAbbreviation s
   | "is" :: "Right" :: "Regular" :: s => "isAddRightRegular" :: fixAbbreviation s
   | "Is" :: "Right" :: "Regular" :: s => "IsAddRightRegular" :: fixAbbreviation s
+  | "Has" :: "Fundamental" :: "Domain" :: s => "HasAddFundamentalDomain" :: fixAbbreviation s
+  | "has" :: "Fundamental" :: "Domain" :: s => "hasAddFundamentalDomain" :: fixAbbreviation s
+  | "Quotient" :: "Measure" :: "EqMeasurePreimage" :: s
+          => "AddQuotientMeasureEqMeasurePreimage" :: fixAbbreviation s
+  | "quotient" :: "Measure" :: "EqMeasurePreimage" :: s
+          => "addQuotientMeasureEqMeasurePreimage" :: fixAbbreviation s
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/Tactic/ToAdditive.lean:1012]: Oh I see, that's how it works... Thanks!

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 39]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+
+variable {G}
+
+@[to_additive addMeasureRestrictMap_apply]
+lemma measureRestrictMap_apply (s : Set α) {U : Set (Quotient α_mod_G)} (meas_U : MeasurableSet U) :
+    (μ.restrict s).map π U = μ ((π ⁻¹' U) ∩ s) := by
+  rw [map_apply (f := π) (fun V hV ↦ measurableSet_quotient.mp hV) meas_U,
+    Measure.restrict_apply (t := (Quotient.mk α_mod_G ⁻¹' U)) (measurableSet_quotient.mp meas_U)]
+
+@[to_additive IsAddFundamentalDomain.addQuotientMeasure_eq]
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:747]:
```suggestion
@[to_additive]
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 40]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    (meas_U : MeasurableSet U) : μ U = ν (π ⁻¹' U ∩ t) := by
+  rw [fund_dom_t.projection_respects_measure (μ := μ), measureRestrictMap_apply ν t meas_U]
+
+variable {ν : Measure α} [Countable G] [MeasurableSpace G]
+  [SMulInvariantMeasure G α ν] [MeasurableSMul G α]
+
+/-- Given a measure upstairs (i.e., on `α`), and a choice `s` of fundamental domain, there's always
+an artificial way to generate a measure downstairs such that the pair satisfies the
+`QuotientMeasureEqMeasurePreimage` typeclass. -/
+@[to_additive IsAddFundamentalDomain.addQuotientMeasureEqMeasurePreimage_addQuotientMeasure]
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:890]:
```suggestion
@[to_additive]
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 41]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+lemma IsFundamentalDomain.quotientMeasureEqMeasurePreimage_quotientMeasure
+    {s : Set α} (fund_dom_s : IsFundamentalDomain G s ν) :
+    QuotientMeasureEqMeasurePreimage ν ((ν.restrict s).map π) where
+  projection_respects_measure' := by
+    intro t fund_dom_t
+    rw [fund_dom_s.quotientMeasure_eq _ fund_dom_t]
+
+/-- One can prove `QuotientMeasureEqMeasurePreimage` by checking behavior with respect to a single
+fundamental domain. -/
+@[to_additive IsAddFundamentalDomain.addQuotientMeasureEqMeasurePreimage]
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:900]:
```suggestion
@[to_additive]
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 42]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    {𝓕 : Set α} (h𝓕 : IsFundamentalDomain G 𝓕 ν)
+    (μ : Measure (Quotient α_mod_G)) [QuotientMeasureEqMeasurePreimage ν μ] :
+    MeasurePreserving π (ν.restrict 𝓕) μ where
+  measurable := measurable_quotient_mk' (s := α_mod_G)
+  map_eq := by
+    haveI : HasFundamentalDomain G α ν := ⟨𝓕, h𝓕⟩
+    rw [h𝓕.projection_respects_measure (μ := μ)]
+
+/-- If a fundamental domain has volume 0, then `QuotientMeasureEqMeasurePreimage` holds. -/
+@[to_additive IsAddFundamentalDomain.addQuotientMeasureEqMeasurePreimage_of_zero]
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:928]:
```suggestion
@[to_additive]
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 43]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+  (μ : Measure α)
+
+local notation "α_mod_G" => MulAction.orbitRel G α
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+variable {G}
+
+@[to_additive addMeasureRestrictMap_apply]
+lemma measureRestrictMap_apply (s : Set α) {U : Set (Quotient α_mod_G)} (meas_U : MeasurableSet U) :
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:742]:
```suggestion
@[to_additive addMeasure_map_restrict_apply]
lemma measure_map_restrict_apply (s : Set α) {U : Set (Quotient α_mod_G)} (meas_U : MeasurableSet U) :
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 44]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+  rw [map_apply (f := π) (fun V hV ↦ measurableSet_quotient.mp hV) meas_U,
+    Measure.restrict_apply (t := (Quotient.mk α_mod_G ⁻¹' U)) (measurableSet_quotient.mp meas_U)]
+
+@[to_additive]
+lemma IsFundamentalDomain.quotientMeasure_eq [Countable G] [MeasurableSpace G] {s t : Set α}
+    [SMulInvariantMeasure G α μ] [MeasurableSMul G α] (fund_dom_s : IsFundamentalDomain G s μ)
+    (fund_dom_t : IsFundamentalDomain G t μ) :
+    (μ.restrict s).map π = (μ.restrict t).map π := by
+  ext U meas_U
+  rw [measureRestrictMap_apply (meas_U := meas_U), measureRestrictMap_apply (meas_U := meas_U)]
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:753]:
```suggestion
  rw [measure_map_restrict_apply (meas_U := meas_U), measure_map_restrict_apply (meas_U := meas_U)]
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 45]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+    (μ : Measure (Quotient α_mod_G)) [i : QuotientMeasureEqMeasurePreimage ν μ] {t : Set α}
+    (fund_dom_t : IsFundamentalDomain G t ν) : μ = (ν.restrict t).map π :=
+  i.projection_respects_measure' t fund_dom_t
+
+@[to_additive addProjection_respects_measure_apply]
+lemma IsFundamentalDomain.projection_respects_measure_apply {ν : Measure α}
+    (μ : Measure (Quotient α_mod_G)) [i : QuotientMeasureEqMeasurePreimage ν μ] {t : Set α}
+    (fund_dom_t : IsFundamentalDomain G t ν) {U : Set (Quotient α_mod_G)}
+    (meas_U : MeasurableSet U) : μ U = ν (π ⁻¹' U ∩ t) := by
+  rw [fund_dom_t.projection_respects_measure (μ := μ), measureRestrictMap_apply ν t meas_U]
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:882]:
```suggestion
  rw [fund_dom_t.projection_respects_measure (μ := μ), measure_map_restrict_apply ν t meas_U]
```

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean (hunk 43 above)
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Group/FundamentalDomain.lean]: Changed, thanks

File: Mathlib/MeasureTheory/Group/FundamentalDomain.lean [hunk 46]
```diff
@@ -718,4 +727,288 @@ protected theorem fundamentalInterior : IsFundamentalDomain G (fundamentalInteri
...
+  (μ : Measure α)
+
+local notation "α_mod_G" => MulAction.orbitRel G α
+
+local notation "π" => @Quotient.mk _ α_mod_G
+
+variable {G}
+
+@[to_additive addMeasure_map_restrict_apply]
+lemma measure_map_restrict_apply (s : Set α) {U : Set (Quotient α_mod_G)} (meas_U : MeasurableSet U) :
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Group/FundamentalDomain.lean:742]:
```suggestion
lemma measure_map_restrict_apply (s : Set α) {U : Set (Quotient α_mod_G)} 
    (meas_U : MeasurableSet U) :
```
